* Extracted by KLayout with SG13G2 LVS runset on : 08/04/2026 19:33

.SUBCKT interruptor
M$1 \$2 \$6 \$3 \$1 sg13_lv_nmos L=0.15u W=0.75u AS=0.255p AD=0.255p PS=2.18u
+ PD=2.18u
M$2 \$2 \$5 \$3 \$4 sg13_lv_pmos L=0.15u W=1.5u AS=0.51p AD=0.51p PS=3.68u
+ PD=3.68u
.ENDS interruptor
