** sch_path: /home/eamtastudent/EAMTA2026-VLSI/design/blocks/inversor/untitled.sch
**.subckt untitled Vdd Out in Vss
*.iopin Vdd
*.iopin Out
*.iopin Vss
*.iopin in
XM1 Out in Vdd Vdd sg13_lv_pmos w=0.15u l=0.13u ng=1
XM2 Out in Vss Vss sg13_lv_nmos w=0.15u l=0.13u ng=1
**.ends
.end
